US08034949B2
To a solution of 4-bromobenzylalcohol (9.98 g) and triethylamine (11.2 μL) in ethyl acetate (100 mL) was added dropwise methanesulfonyl chloride (7.35 g) under nitrogen gas atmosphere and ice-cooling and the mixture was stirred under ice-cooling for 1 hour. To the reaction mixture was added water and the mixture was extracted with ethyl acetate (×2). After washing successively with water and a saturated brine, the organic layer was dried over anhydrous magnesium sulfate. After evaporation to remove solvent, the resultant crude product was triturated in ethyl acetate/hexane to 4-bromobenzyl methanesulfonate (13.54 g, yield: 91%) as crystals.

reactant | 4-bromobenzylalcohol | 9.98 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | triethylamine | 11.2 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.35 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-bromobenzyl methanesulfonate | 13.54 g, yield: 91% | CS(=O)(=O)OCC1=CC=C(C=C1)Br | C8H9BrO3S
